US08048887B2
6-Amino-2-(4-fluorophenyl)-N-methyl-5-(3-(1-phenylcyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide
2-(4-Fluorophenyl)-N-methyl-6-nitro-5-(3-(1-phenylcyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide (83.3 mg, 0.152 mmol) undr N2 at r.t. was dissolved in DMF (2 ml) and then added ethyl acetate (10 mL). The mixture remained as a clear light brown solution. The mixture was added palladium (97 mg, 0.045 mmol, 5%/C), flushed with H2 using a balloon, and the mixture stirred under H2 for about 8 hr. The mixture was diluted with EtOAc, and filtered through a Whatman PTFE 45 uM disk. The filtrate was evaporated. The residue was titurated with 3×1 ml Et2O (the Et2O solution was removed by using a pipette), and the light orange solid product dried (64.4 mg, 82%). 1H NMR (500 MHz, DMSO-d6) δ 9.26 (s, 1H), 8.32 (q, J=4.17, 1H), 7.94-7.89 (overlapping m, 3H), 7.97 (s, 1H), 7.62 (d, J=6.8, 1H), 7.58 (q, 1H), 7.34 (t, J=8.70, 2H), 7.29 (t, 1H), 7.28 (d, J=7.50, 1H), 7.23 (s, 2H), 7.227 (d, J=8.00, 1H), 7.17 (t, J=7.17, 1H,), 6.99 (s, 1H), 5.09 (s, 2H), 2.79 (appeared as d, J=3.97, 3H), 1.29 (appeared as d, 4H). LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=4 ml/min, Column: XTERRA® MS 7 um, C18, 3.0×50 mm; (ES+) m/z (M+H)+=520.39, HPLC Rt=1.497 min.

reactant | 2-(4-Fluorophenyl)-N-methyl-6-nitro-5-(3-(1-phenylcyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide | 0.152 mmol, 83.3 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)[N+](=O)[O-])C2=CC(=CC=C2)C(NC2(CC2)C2=CC=CC=C2)=O | C32H24FN3O5
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | palladium | 0.045 mmol, 97 mg | [Pd] | Pd
product | 6-Amino-2-(4-fluorophenyl)-N-methyl-5-(3-(1-phenylcyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide | NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1=CC(=CC=C1)C(NC1(CC1)C1=CC=CC=C1)=O | C32H26FN3O3
